Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI(4): Ms. ___ is a ___ female with the past medical
history of DM2, HTN, hypothyroidism, and several prior bouts of
pancreatitis who presents with a episode of acute onset
epigastric abdominal pain with radiation to her back.  She
reports that the pain had acute onset approximately 2 AM on the
day of admission.  She reports that it was an epigastric burning
sensation that started in her epigastric region and radiated up
into her chest.  She reports that radiated to the back.  She
reports that she has had prior episodes of pancreatitis and had 
a
cholecystectomy in ___.  She reports that nothing was out of 
the
ordinary on the day prior to admission.  She reports she is in
the ___ for several weeks on vacation and is due to go
home next week to ___.  She had an episode approximately 6
months ago in which she underwent a MRCP and ERCP without clear
etiology surrounding her pancreatitis.  Given the pain she
presented to the emergency department for further evaluation and
management.

In the emergency department her initial vital signs were stable
with a temperature of 99.4, heart rate 73, BP 179/90, 
respiratory
rate 16 and satting 100% on room air.  She underwent a CT of her
abdomen and pelvis with contrast which was notable for no acute
intra-abdominal process to expand the patient's symptoms.  She
also underwent a right upper quadrant ultrasound which was 
normal
ultrasound status post cholecystectomy.  Her labs were notable
for an ALT of 72, and AST of 185, alk phos 106, lipase 281. 
Remainder of her Chem-7 was unremarkable.  Troponin was negative
at 0.01.  She was given a GI cocktail and she reports great
improvement in her symptoms.  She was admitted to the hospital
for further evaluation and management. 

On arrival to floor the patient reports that her abdominal pain
continues to feel well.  She denies any ongoing abdominal pain. 
Denies any nausea or vomiting.  She reports that she feels
similar to her prior episodes.  No other acute complaints. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
DM2
HTN
Hypothyroidism
Several episodes of acute pancreatitis in past. 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization. She specifically denies any family history of 
pancreatic
conditions.
 
Physical Exam:
Admission Physical EXAM(8)
VITALS: ___ 1205 Temp: 99.1 PO BP: 157/72 HR: 74 RR: 18 O2
sat: 95% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Physical Exam: 
VITALS: Afebrile, VSS. 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission Labs: 
___ 03:09AM BLOOD WBC-5.8 RBC-4.15 Hgb-11.8 Hct-35.5 MCV-86 
MCH-28.4 MCHC-33.2 RDW-12.7 RDWSD-39.5 Plt ___
___ 03:09AM BLOOD Neuts-50.2 ___ Monos-10.7 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-2.89 AbsLymp-2.10 AbsMono-0.62 
AbsEos-0.11 AbsBaso-0.03
___ 03:09AM BLOOD ___ PTT-26.0 ___
___ 03:09AM BLOOD Glucose-112* UreaN-13 Creat-0.5 Na-138 
K-3.9 Cl-98 HCO3-23 AnGap-17
___ 03:09AM BLOOD ALT-72* AST-185* AlkPhos-106* TotBili-0.5
___ 03:09AM BLOOD Lipase-281*
___ 03:09AM BLOOD cTropnT-<0.01
___ 03:04PM BLOOD CK-MB-1 cTropnT-<0.01
___ 03:09AM BLOOD Albumin-4.0 Calcium-8.6 Phos-3.1 Mg-1.8
___ 03:04PM BLOOD Triglyc-40
___ 03:04PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS* HAV 
Ab-POS*
___ 03:04PM BLOOD HCV Ab-NEG

LFT Trend: 
___ 03:09AM BLOOD ALT-72* AST-185* AlkPhos-106* TotBili-0.5
___ 03:04PM BLOOD ALT-292* AST-352* LD(LDH)-431* 
CK(CPK)-116 AlkPhos-144* TotBili-0.3
___ 06:59AM BLOOD ALT-187* AST-143* AlkPhos-117* 
TotBili-0.3

Imaging: 
EXAMINATION:  LIVER OR GALLBLADDER US (SINGLE ORGAN) 
  
INDICATION:  History: ___ with epigastric pain// 
?cholelithasis/itis 
  
TECHNIQUE:  Grey scale and color Doppler ultrasound images of 
the abdomen were 
obtained. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the 
liver is smooth. There is no focal liver mass. The main portal 
vein is patent 
with hepatopetal flow. There is no ascites. 
  
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD 
measures 4 mm. 
  
GALLBLADDER: The patient is status post cholecystectomy. 
  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic 
tail obscured by overlying bowel gas. 
  
SPLEEN:  Normal echogenicity, measuring 6.9 cm. 
  
KIDNEYS:  Limited views of the right kidney show no 
hydronephrosis. 
  
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION:  
  
Normal abdominal ultrasound, status post cholecystectomy. 

EXAMINATION:  CT abdomen pelvis with contrast 
  
INDICATION:  NO_PO contrast; History: ___ with epigastric pain 
and elevated 
lipaseNO_PO contrast// ?infection, obstruction 
  
TECHNIQUE:   Single phase split bolus contrast: MDCT axial 
images were 
acquired through the abdomen and pelvis following intravenous 
contrast 
administration with split bolus technique. 
Oral contrast was administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Stationary Acquisition 4.5 s, 0.5 cm; CTDIvol = 21.7 mGy 
(Body) DLP = 
10.8 mGy-cm. 
   2) Spiral Acquisition 6.1 s, 48.1 cm; CTDIvol = 14.1 mGy 
(Body) DLP = 676.7 
mGy-cm. 
 Total DLP (Body) = 688 mGy-cm. 
  
COMPARISON:  Ultrasound dated earlier same day. 
  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  The gallbladder is 
surgically absent. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  The 
colon and 
rectum are within normal limits.  The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: There is an enlarged, fibroid uterus. No 
adnexal 
abnormality is seen. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
  
1. No acute intra-abdominal process to explain the patient's 
symptoms.  No 
evidence for pancreatitis 
2. Fibroid uterus 

DISCHARGE LABS: 
___ 06:59AM BLOOD WBC-3.4* RBC-3.76* Hgb-10.7* Hct-33.0* 
MCV-88 MCH-28.5 MCHC-32.4 RDW-12.9 RDWSD-41.2 Plt ___
___ 06:59AM BLOOD Glucose-133* UreaN-6 Creat-0.6 Na-144 
K-4.2 Cl-103 HCO3-32 AnGap-9*
___ 06:59AM BLOOD Calcium-8.6 Phos-4.0 Mg-1.9
___ 06:59AM BLOOD ALT-187* AST-143* AlkPhos-117* 
TotBili-0.___ female with the past medical history of DM2, HTN, 
hypothyroidism, and several prior bouts of pancreatitis who 
presents with a episode of acute onset
epigastric abdominal pain with radiation to her back.

ACUTE/ACTIVE PROBLEMS:
# Acute Pancreatitis:
# Transaminitis: Patient presents with epigastric abdominal pain 
that radiates to the back with a lipase greater than 3 times 
upper limit of normal consistent with acute pancreatitis.  She 
has a history of at least 10 episodes of acute pancreatitis in 
the past per report but not recently.  She reports a thorough 
evaluation in ___ with her typical providers that included 
both an MRCP, and ERCP.  She had a cholecystectomy in ___ 
reports that since that time she has had a decrease in the 
frequency of her pancreatitis attacks.  She is on no medications 
that should increase the risk for pancreatitis.  She is a 
nondrinker and a never smoker.  She reports an MRCP and ERCP 
which were both negative for any underlying malignancy. She 
underwent a CT scan and a RUQUS that were non-diagnostic. Her 
LFTs rose following admission with peaks of ALT: 292 AST: 352  
Alk Phos: 144* and Tbili:0.3. Her pain improved and she was 
placed on a clear liquid diet and advanced to a low fat diet 
with no recurrent pain. Discharge LFTs were trending down ALT: 
187, AST: 143, Alk Phos: 117, Tbili: 0.3. Given the pattern I 
would be concerned for a stone that was passed on her own. She 
has a history of CCY and may benefit from repeat MRCP following 
resolution of acute episode of pancreatitis. She will follow up 
with her providers in ___ (going home in less than 1 week)
 
# DM2: Patient is on Metformin, Humalog 10 units 3 times daily 
as well as glargine 16 units nightly.  Her insulin was dose 
reduced and her metformin was held on admission given contrast 
and diet changes. On discharged resumed home meds with exception 
of metformin which should be resumed on ___ given contrast 
exposure.

# HTN: Elevated to 180s prior to discharge. She was 
asymptomatic. Given PO labetolol and BP improved. Likely related 
to IV fluids in setting of NPO. BP improved to 160s-170s prior 
to discharge. 
-Continued home losartan

# Hypothyroidism:
-Continued home levothyroxine

Greater than 30 minutes was spent in care coordination and 
counseling in discharge. A medical translator was used during 
this hospitalization. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 16 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
2. MetFORMIN (Glucophage) 500 mg PO TID 
3. Losartan Potassium 100 mg PO DAILY 
4. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Glargine 16 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner 
2.  Levothyroxine Sodium 50 mcg PO DAILY  
3.  Losartan Potassium 100 mg PO DAILY  
4. HELD- MetFORMIN (Glucophage) 500 mg PO TID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until Please 
restart this medication on ___. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Pancreatitis
New Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___, 

It was a pleasure taking care of you while you were in the 
hospital. You were admitted with acute abdominal pain and found 
to have likely pancreatitis and transaminitis. You were treated 
with bowel rest and IV fluids and you improved and are now able 
to tolerate a diet. It is important to follow up with your 
regular providers when you return home to make sure that your 
liver tests return to normal. 

Please continue to take your medications as directed, we made no 
changes. 
 
Followup Instructions:
___